US07968746B2
A solution of 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (500 mg, 2.0 mmol) in 10 mL THF was treated with 356 mg CDI (2.2 mmol). After 1 h, 366 mg 2-(2-methylaminoethyl)pyridine (3.0 mmol) in 10 mL THF was added over 1 h and stirred overnight. The solution was concentrated, dissolved into 70 mL CH2Cl2, extracted once with 1.0 M NaHCO3. The aqueous phase was then back extracted 2×25 mL CH2Cl2 and the combined organics washed with 2×25 mL saturated NaCl and dried over Na2SO4. The solution was concentrated and purified by flash chromatography to give 6-hydroxy-2,5,7,8-tetramethyl-N-(2-(pyridin-2-yl)ethyl)chroman-2-carboxamide.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 2.0 mmol, 500 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 2.2 mmol, 356 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-(2-methylaminoethyl)pyridine | 3.0 mmol, 366 mg | CNCCC1=NC=CC=C1 | C8H12N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-hydroxy-2,5,7,8-tetramethyl-N-(2-(pyridin-2-yl)ethyl)chroman-2-carboxamide | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCCC1=NC=CC=C1)C)C | C21H26N2O3
